US03978130
1-Cyclopropyl-3-methylamino-1-propanone.
A solution of 42.5 g. (0.3 mole) of 1-cyclopropyl-3-dimethylamino-1-propanone in 200 ml. of benzene was refluxed while methylamine was bubbled through the solution for 8 hours. The nuclear magnetic resonance spectrum indicated a 90% conversion to 1-cyclopropyl-3-methylamino-1-propanone.

reactant | 1-cyclopropyl-3-dimethylamino-1-propanone | 0.3 mole | C1(CC1)C(CCN(C)C)=O | C8H15NO
reactant | methylamine | CN | CH5N
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-Cyclopropyl-3-methylamino-1-propanone | C1(CC1)C(CCNC)=O | C7H13NO
